US07276511B2
Synthesis of tert-butyl[1-(3,4-dichlorophenyl)-1-methylaminomethyl-3-butenyl]methylcarbamate
tert-Butyl[1-(3,4-dichlorophenyl)-1-formyl-3-butenyl]methylcarbamate (35 g) was dissolved in methanol (350 mL), and 40% methylamine-methanol solution (44 mL) was added thereto, followed by refluxing for 15 hours. The reaction mixture was cooled to room temperature, and sodium cyanoborohydride (12.5 g) was added thereto, followed by refluxing for 7 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified through silica gel column chromatography (sequentially through use of n-hexane:ethyl acetate=2:1 and chloroform:methanol=10:1 to 5:1), to thereby give the title compound (24.8 g, 70%).

reactant | tert-Butyl[1-(3,4-dichlorophenyl)-1-formyl-3-butenyl]methylcarbamate | 35 g | C(C)(C)(C)OC(N(C)C(CC=C)(C=O)C1=CC(=C(C=C1)Cl)Cl)=O | C17H21Cl2NO3
reactant | methylamine methanol | 44 mL | CN.CO
reactant | sodium cyanoborohydride | 12.5 g | C(#N)[BH3-].[Na+]
solvent | methanol | 350 mL | CO | CH4O
product | tert-butyl[1-(3,4-dichlorophenyl)-1-methylaminomethyl-3-butenyl]methylcarbamate | 24.8 g, 70% | C(C)(C)(C)OC(N(C)C(CC=C)(CNC)C1=CC(=C(C=C1)Cl)Cl)=O | C18H26Cl2N2O2
